US07101871B2
Step C: (3R)-4-[(3R)-3-amino-4-(2,4,5-trifluorophenyl)butanoyl]-1-tert-butyl-hexahydro-3-methyl-2H-1,4-diazepin-2-one
The title compound was prepared from (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid and 1-tert-butyl-hexahydro-3-methyl-2H-1,4-diazepin-2-one by the method described in Example 3, Step C and D. LC/MS 400.1 (M+1).

reactant | (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
reactant | 1-tert-butyl-hexahydro-3-methyl-2H-1,4-diazepin-2-one | C(C)(C)(C)N1C(C(NCCC1)C)=O | C10H20N2O
product | (3R)-4-[(3R)-3-amino-4-(2,4,5-trifluorophenyl)butanoyl]-1-tert-butyl-hexahydro-3-methyl-2H-1,4-diazepin-2-one | N[C@@H](CC(=O)N1[C@@H](C(N(CCC1)C(C)(C)C)=O)C)CC1=C(C=C(C(=C1)F)F)F | C20H28F3N3O2
